US07534788B2
Step 2: 1-(2-Hydroxy-4-methoxy-phenyl)-2-methyl-propan-1-one
The above prepared 1-(2,4-dihydroxy-phenyl)-2-methyl-propan-1-one (1.13 g, 5.55 mmol, corrected for purity) was dissolved in 22 mL of acetonitrile and treated successively at 0° C. with iodomethane (0.36 mL, 1.05 eq.) and Cs2CO3 (1.998 g, 1.1 eq.), and the mixture then stirred over night at ambient temperature. Pouring onto crashed ice/NH4Cl, twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=95/5), delivered 0.740 g of the title compound as colorless oil.

reactant | 1-(2,4-dihydroxy-phenyl)-2-methyl-propan-1-one | 5.55 mmol, 1.13 g | OC1=C(C=CC(=C1)O)C(C(C)C)=O | C10H12O3
reactant | iodomethane | 0.36 mL, 1.05 eq. | IC | CH3I
reactant | Cs2CO3 | 1.998 g, 1.1 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 22 mL | C(C)#N | C2H3N
product | 1-(2-Hydroxy-4-methoxy-phenyl)-2-methyl-propan-1-one | OC1=C(C=CC(=C1)OC)C(C(C)C)=O | C11H14O3
